US08957080B2
Under nitrogen, to a solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2.61 g, 10.00 mmol, 1.00 equiv), tert-butyl (25)-4,4-difluoro-2-(hydroxymethyl)pyrrolidine-1-carboxylate (2.37 g, 9.99 mmol, 1.00 equiv) and TPP (4 g, 15.2 mmol, 1.50 equiv) in THF was DIAD (3.00 g, 15.0 mmol, 1.50 equiv) at 0° C. in 30 min. The resulting solution was stirred overnight at room temperature. The mixture was then concentrated under vacuum and the residue was applied onto a silica gel column with dichloromethane/ethyl acetate (3/1) to give 1 g of tert-butyl (2S)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]-pyrimidin-1-yl]methyl)-4,4-difluoropyrrolidine-1-carboxylate as reddish oil.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 10.00 mmol, 2.61 g, 1.00 equiv | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | tert-butyl (25)-4,4-difluoro-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 9.99 mmol, 2.37 g, 1.00 equiv | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)CO)F | C10H17F2NO3
reactant | DIAD | 15.0 mmol, 3.00 g, 1.50 equiv | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl (2S)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]-pyrimidin-1-yl]methyl)-4,4-difluoropyrrolidine-1-carboxylate | 1 g | NC1=C2C(=NC=N1)N(N=C2I)C[C@H]2N(CC(C2)(F)F)C(=O)OC(C)(C)C | C15H19F2IN6O2
